US05053552
According to the same procedure of Example 1, using 19.5 g (200 mmol) of furfural, and 642 mg (3 mmol) of aluminum isopropoxide, 18.2 g (100 mmol) of geranyl formate was oxidized to obtain citral at a yield of 86%.

reactant | furfural | 200 mmol, 19.5 g | C(C1=CC=CO1)=O | C5H4O2
reactant | aluminum isopropoxide | 3 mmol, 642 mg | CC([O-])C.[Al+3].CC([O-])C.CC([O-])C
reactant | geranyl formate | 100 mmol, 18.2 g | C(=O)OC\C=C(/C)\CCC=C(C)C | C11H18O2
product | citral | yield of 86% | CC(C)=CCCC(C)=CC=O | C10H16O
